US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 51, Step B using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.20 g, 0.36 mmol) and 7N ammonia in MeOH (10 ml, 70 mmol) the title compound was obtained (0.030 g, 0.056 mmol, 15%). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.80 (s, 1H), 7.95 (d, J=5.1 Hz, 1H), 7.64 (dd, J=14.3, 2.0 Hz, 1H), 7.55-7.38 (m, 2H), 7.34 (d, J=7.0 Hz, 1H), 7.18 (t, J=9.1 Hz, 2H), 6.72 (br, 2H), 5.61 (d, J=5.1 Hz, 1H), 3.83 (quin, J=8.4 Hz, 1H), 3.45-3.19 (m, 1H), 2.38 (q, J=8.5 Hz, 1H), 2.24 (quin, J=9.1 Hz, 1H), 2.10-1.92 (m, 1H), 1.86 (q, J=9.4 Hz, 1H), 1.06 (t, J=7.0 Hz, 1H). MS (ESI): 534 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.36 mmol, 0.20 g | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C1CCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H16Cl2F2N4O2S2
reactant | ammonia | 7N | N | H3N
reactant | MeOH | 70 mmol, 10 ml | CO | CH4O
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)Cl | C23H18ClF2N5O2S2
